US06743809B2
2-(2-Methanesulfonyloxyethyl)-1-methyl-4-nitrobenzene
A 500 mL round bottom flask was charged with (2-methyl-5-nitrophenyl)acetic acid (15 g, 77 mmol) and dry THF (300 mL). The mixture was cooled on ice-water and treated dropwise with borane-tetrahydrofurane complex (90 mL, 1M in THF, 90 mmol) during one hour. The reaction mixture was stirred for two hours at room temperature and then poured on ice. The aqueous phase was extracted with ethyl acetate (3×600 mL). The combined organic phases were washed with brine (2×1L) and water (2×1L), dried (Na2SO4) and concentrated in vacuo. The residue was redissolved in dichloromethane (200 mL) and triethylamine (10.8 mL, 78 mmol). The mixture was cooled on ice-water and a mixture of methanesulfonyl chloride (6.05 mL, 78 mmol) dissolved in dichloromethane (100 mL) was added dropwise during 20 minutes. The reaction mixture was stirred for 2 hours at room temperature. The reaction mixture was concentrated in vacuo. The residue was purified by flash chromatography on silicagel (eluent:ethyl acetate/heptane 2:3) to give the title compound (7.8 g). 1H NMR (CDCl3): 2.45 (s, 3H); 2.96 (s, 3H); 3.15 (t, 2H); 4.45 (t, 2H); 7.33 (d, 1H); 7.98-8.11 (m, 2H).

reactant | (2-methyl-5-nitrophenyl)acetic acid | 77 mmol, 15 g | CC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)O | C9H9NO4
reactant | borane tetrahydrofurane | 90 mmol, 1M, 90 mL | B.O1CCCC1
reactant | triethylamine | 78 mmol, 10.8 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 78 mmol, 6.05 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(2-Methanesulfonyloxyethyl)-1-methyl-4-nitrobenzene | 7.8 g | CS(=O)(=O)OCCC1=C(C=CC(=C1)[N+](=O)[O-])C | C10H13NO5S
